US09102614B2
Preparation of (S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-3-ethylnaphthalen-2-yl)acetic acid (29B):
To a solution of (S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-3-vinylnaphthalen-2-yl)acetic acid (4 mg, 0.010 mmol) in EtOH (1.5 mL) was added Rh/Al2O3 (cat. amount) and the resulting mixture stirred under hydrogen (1 atm, balloon) at room temperature for 2 h. The reaction mixture was filtered over Celite, concentrated in vacuo and the residue was purified by reverse phase HPLC (Gemini, 5 to 100% ACN/H2O+0.1% TFA) to provide 0.8 mg of the desired product. 1H-NMR: 400 MHz, (CD3OD) δ: 7.81 (d, J=4.2 Hz, 1H), 7.77 (s, 1H), 7.58-7.53 (m, 3H), 7.44-7.41 (m, 1H), 7.33-7.20 (m, 3H), 5.20 (s, 1H), 3.14-3.08 (m, 1H), 2.93-2.87 (m, 1H), 1.34 (t, J=7.4 Hz, 3H), 0.98 (s, 9H). LCMS-ESI− (m/z): [M−H]− calcd for C24H24ClO3: 395.1. Found: 395.0.

reactant | (S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-3-vinylnaphthalen-2-yl)acetic acid | 0.010 mmol, 4 mg | C(C)(C)(C)O[C@H](C(=O)O)C1=C(C2=CC=CC=C2C=C1C=C)C1=CC=C(C=C1)Cl | C24H23ClO3
solvent | EtOH | 1.5 mL | CCO | C2H6O
catalyst | Rh/Al2O3 | [Rh] | Rh
product | (S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-3-ethylnaphthalen-2-yl)acetic acid | 0.8 mg | C(C)(C)(C)O[C@H](C(=O)O)C1=C(C2=CC=CC=C2C=C1CC)C1=CC=C(C=C1)Cl | C24H25ClO3
